US07700641B2
B. Synthesis of ethyl[4-bromo-3-(4,5-difluoro-2-hydroxyphenyl)-3-hydroxy-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate
Following the procedure as described in PREPARATION 2B, and making non-critical variations to replace 1-(2-cyclopropylethyl)-1H-indole-2,3-dione with ethyl(4-bromo-2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate and 1,3-benzodioxol-5-ol with 3,4-difluorophenol, the title compound was obtained as a white solid (42%); MS (ES+) m/z 424 (M−17), 426 (M−17), 464 (M+23), 466 (M+23).

reactant | 1-(2-cyclopropylethyl)-1H-indole-2,3-dione | C1(CC1)CCN1C(C(C2=CC=CC=C12)=O)=O | C13H13NO2
reactant | ethyl(4-bromo-2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate | C(C)OC(CN1C(C(C2=C(C=CC=C12)Br)=O)=O)=O | C12H10BrNO4
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 3,4-difluorophenol | FC=1C=C(C=CC1F)O | C6H4F2O
product | ethyl[4-bromo-3-(4,5-difluoro-2-hydroxyphenyl)-3-hydroxy-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=C(C=CC=C12)Br)(O)C1=C(C=C(C(=C1)F)F)O)=O)=O | C18H14BrF2NO5
